US05559113
1-{[2-(1H-Imidazol-4-yl)ethyl]amino}-4-nitrobenzene
1.45 g (13.1 mmol) of histamine and 2.06 g (13.1 mmol) of 1-chloro-4-nitrobenzene are brought to reflux in 20 ml of 2-propanol for 3 days. The cooled reaction mixture is filtered, evaporated and chromatographed on a first column of silica gel, using a chloroform/methanol (99/1) mixture, and then on a second column, using a chloroform/methanol (9/1) mixture. The pure fractions were evaporated and the resulting solid was treated with oxalic acid in ethanol. Addition of ether provided the title compound in the form of an oxalate salt, M.p.: 185°-186° C.

reactant | histamine | 13.1 mmol, 1.45 g | NCCC1=CNC=N1 | C5H9N3
reactant | 1-chloro-4-nitrobenzene | 13.1 mmol, 2.06 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | 1-{[2-(1H-Imidazol-4-yl)ethyl]amino}-4-nitrobenzene | N1C=NC(=C1)CCNC1=CC=C(C=C1)[N+](=O)[O-] | C11H12N4O2
